US06469188B1
3-(3,3,5,5-tetramethylcyclohexyl)-6,6-dimethylfulvene.
A 500 mL flask was charged with 1-(cyclopentadienyl)-3,3,5,5-tetramethylcyclohexane (11.87 g, 58.1 mmol), 100 mL methanol, acetone (30 mL, 430 mmol), and pyrrolidine (1.0 mL, 12 mmol). After stirring for 52 hours, 5 mL of acetic acid were added, along with 200 mL water and 100 mL diethyl ether. The organic layer was isolated and the aqueous layer was extracted with diethyl ether (3×50 mL). The combined organic layers were extracted with H2O (3×30 mL) and 10% aqueous NaOH (3×30 mL). The organic layer was dried over MgSO4, filtered, rotavapped, dried in vacuo, and pushed through a short column of alumina to provide the product in quantitative yield as a yellow oil. MS (GC-MS) m/z 244.4 (M+).

reactant | 1-(cyclopentadienyl)-3,3,5,5-tetramethylcyclohexane | 58.1 mmol, 11.87 g | C1(C=CC=C1)C1CC(CC(C1)(C)C)(C)C | C15H24
reactant | methanol | 100 mL | CO | CH4O
reactant | acetone | 430 mmol, 30 mL | CC(=O)C | C3H6O
reactant | pyrrolidine | 12 mmol, 1.0 mL | N1CCCC1 | C4H9N
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | water | 200 mL | O | H2O
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 3-(3,3,5,5-tetramethylcyclohexyl)-6,6-dimethylfulvene | quantitative yield | CC1(CC(CC(C1)(C)C)C=1C=CC(C1)=C(C)C)C | C18H28
